### PR TITLE
chore: adaptations to nightly-2024-03-11

### PR DESCRIPTION
**Pull request by kim-em**
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by grunweg — COMMENTED** [review]
A few comments about "stray parts of the diff".

File: Mathlib/Algebra/Function/Support.lean [hunk 1]
```diff
@@ -115,7 +115,8 @@ theorem disjoint_mulSupport_iff {f : α → M} {s : Set α} :
 
 @[to_additive (attr := simp)]
 theorem mulSupport_eq_empty_iff {f : α → M} : mulSupport f = ∅ ↔ f = 1 := by
-  simp_rw [← subset_empty_iff, mulSupport_subset_iff', funext_iff]
+  -- Adaptation note: `simp_rw` broke `to_additive` as of `nightly-2024-03-07`
```
Comment (semorrison) [inline Mathlib/Algebra/Function/Support.lean:118]:
```suggestion
  -- Adaptation note: This used to be `simp_rw` rather than `rw`,
  -- but this broke `to_additive` as of `nightly-2024-03-07`
```

File: Mathlib/Data/Finset/Basic.lean [hunk 2]
```diff
@@ -2814,7 +2814,7 @@ theorem filter_comm (s : Finset α) : (s.filter p).filter q = (s.filter q).filte
 #align finset.filter_comm Finset.filter_comm
 
 -- We can simplify an application of filter where the decidability is inferred in "the wrong way"
-@[simp]
+-- Adaptation note: as of `nightly-2024-03-11`, Was a simp lemma but no longer applies to itself
```
Comment (semorrison) [inline Mathlib/Data/Finset/Basic.lean:2817]:
```suggestion
```

File: Mathlib/Data/Fintype/BigOperators.lean [hunk 3]
```diff
@@ -142,12 +142,16 @@ theorem Fintype.card_pi {β : α → Type*} [DecidableEq α] [Fintype α] [∀ a
 #align fintype.card_pi Fintype.card_pi
 
 -- FIXME ouch, this should be in the main file.
-@[simp]
 theorem Fintype.card_fun [DecidableEq α] [Fintype α] [Fintype β] :
     Fintype.card (α → β) = Fintype.card β ^ Fintype.card α := by
   rw [Fintype.card_pi, Finset.prod_const]; rfl
 #align fintype.card_fun Fintype.card_fun
 
+-- Adaptation note: as of `nightly-2024-03-11`, `Fintype.card_fun` does not have LHS in simp normal form
```
Comment (semorrison) [inline Mathlib/Data/Fintype/BigOperators.lean:150]:
```suggestion
```

File: Mathlib/Data/Nat/Choose/Basic.lean [hunk 4]
```diff
@@ -88,7 +88,8 @@ theorem choose_succ_self (n : ℕ) : choose n (succ n) = 0 :=
 #align nat.choose_succ_self Nat.choose_succ_self
 
 @[simp]
-theorem choose_one_right (n : ℕ) : choose n 1 = n := by induction n <;> simp [*, choose, add_comm]
+theorem choose_one_right (n : ℕ) : choose n 1 = n := by
+  induction n <;> simp [*, choose, add_comm]
```
Comment (semorrison) [inline Mathlib/Data/Nat/Choose/Basic.lean:92]:
```suggestion
theorem choose_one_right (n : ℕ) : choose n 1 = n := by induction n <;> simp [*, choose, add_comm]
```

**Review by mattrobball — APPROVED** [review]

File: Mathlib/RingTheory/Henselian.lean [hunk 5]
```diff
@@ -236,8 +236,12 @@ instance (priority := 100) IsAdicComplete.henselianRing (R : Type*) [CommRing R]
         obtain ⟨k, rfl⟩ := Nat.exists_eq_add_of_le hmn
         clear hmn
         induction' k with k ih
-        · rw [Nat.zero_eq, add_zero]
-        rw [Nat.succ_eq_add_one, ← add_assoc, hc, ← add_zero (c m), sub_eq_add_neg]
+        · rw [add_zero]
+        rw [← add_assoc]
+        -- Adaptation note: nightly-2024-03-11
+        -- I'm not sure why the `erw` is now needed here. It looks like it should work.
+        erw [hc]
```
Comment (mattrobball) [inline Mathlib/RingTheory/Henselian.lean:243]: It looks like it has a problem unfolding `c` itself so tries to unify `Nat.rec` and `HSub.hsub`

Comment (semorrison) [reply Mathlib/RingTheory/Henselian.lean:243]: Do you want to expand the comment?

File: Mathlib/Data/List/Sort.lean [hunk 6]
```diff
@@ -415,10 +415,10 @@ theorem perm_split : ∀ {l l₁ l₂ : List α}, split l = (l₁, l₂) → l ~
...
 
      merge [1, 2, 4, 5] [0, 1, 3, 4] = [0, 1, 1, 2, 3, 4, 4, 5] -/
-def merge : List α → List α → List α
+def merge' : List α → List α → List α
   | [], l' => l'
   | l, [] => l
-  | a :: l, b :: l' => if a ≼ b then a :: merge l (b :: l') else b :: merge (a :: l) l'
+  | a :: l, b :: l' => if a ≼ b then a :: merge' l (b :: l') else b :: merge' (a :: l) l'
   termination_by l₁ l₂ => length l₁ + length l₂
 #align list.merge List.merge
```
[the remark this answers is not in the document]
Comment (semorrison) [reply Mathlib/Data/List/Sort.lean:423]: Oh, oops, let's undo this in this PR. My mistake.

**Comment by kmill** [comment]
I've looked through all the changes, and everything (except for questions about `List.merge`) looks good to me.

File: Mathlib/RingTheory/Henselian.lean (hunk 5 above)
Comment (mattrobball) [reply Mathlib/RingTheory/Henselian.lean:243]: Expanded

File: Mathlib/Data/List/Sort.lean (hunk 6 above)
[the remark this answers is not in the document]
Comment (semorrison) [reply Mathlib/Data/List/Sort.lean:423]: Okay, I've revert this change, and instead incorporated the change from https://github.com/leanprover-community/mathlib4/pull/11347

**Comment by mattrobball** [comment]
> !bench

Something [terrible](http://speed.lean-fro.org/mathlib4/compare/e7b27246-a3e6-496a-b552-ff4b45c7236e/to/3e975452-6a29-4b51-9a34-77372de042bf?hash1=c489838a0c52d6d65a6b6332aeddba6752e8e3a2) happened in injective resolutions

**Comment by semorrison** [comment]
> > !bench
> 
> Something [terrible](http://speed.lean-fro.org/mathlib4/compare/e7b27246-a3e6-496a-b552-ff4b45c7236e/to/3e975452-6a29-4b51-9a34-77372de042bf?hash1=c489838a0c52d6d65a6b6332aeddba6752e8e3a2) happened in injective resolutions

It's still on overall improvement on instructions (very minor) and wall-clock, so we don't need to hold on this, right?

**Comment by mattrobball** [comment]
Don’t hold. It is probably something silly. Looking now

**Comment by mattrobball** [comment]
Added comment with label

**Comment by mattrobball** [comment]
🤦‍♂️
